US07981874B2
Chloromethyl [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]carbamate.
tert-butyl [2-{[4-(aminomethyl)benzoyl]amino}-4-(2-thienyl)phenyl]carbamate (2.0 g, 4.72 mmol) was suspended in dichloromethane (50 ml). Hunig's Base (1 ml, 5.73 mmol) was added. The solution was cooled to 0° C. Chlorocarbonic acid chloromethyl ester (0.5 ml, 5.68 mmol) was added slowly. The reaction was stirred for approximately 1-2 h. The mixture, while cold, was diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate. The aqueous layer was extracted three times with dichloromethane. The combined organic layers were dried over Na2SO4, filtered, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with EtOAc/hexane. MS: calc'd 417 (MH+-Boc), exp 417 (MH+-Boc).

reactant | tert-butyl [2-{[4-(aminomethyl)benzoyl]amino}-4-(2-thienyl)phenyl]carbamate | 4.72 mmol, 2.0 g | NCC1=CC=C(C(=O)NC2=C(C=CC(=C2)C=2SC=CC2)NC(OC(C)(C)C)=O)C=C1 | C23H25N3O3S
reactant | Hunig's Base | 5.73 mmol, 1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Chlorocarbonic acid chloromethyl ester | 5.68 mmol, 0.5 ml | ClCOC(=O)Cl | C2H2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Chloromethyl [4-({[2-[(tert-butoxycarbonyl)amino]-5-(2-thienyl)phenyl]amino}carbonyl)benzyl]carbamate | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(CNC(OCCl)=O)C=C1 | C25H26ClN3O5S
